Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / chlorthalidone / spironolactone
 
Attending: ___.
 
Chief Complaint:
Elevated blood pressure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/ hx of DMII, CKDIII, nephrotic syndrome, significant 
family history of renal and hypertensive disease, and personal 
history of refractory HTN (with prior seizures i/s/o 
hypertensive emergency) initially presented for hypertensive 
episodes.
Patient has had a history of hypertensive emergency episodes in 
the past, including one this past ___ when her co-worker help 
her to the emergency room during a time when she experienced a 
grand-mal seizure. Patient states that she was recently taken 
off of chlorthalidone and her amlodipine was decreased on ___ 
from 10 mg daily to 5 mg daily due to complaint regarding 
increasing leg swelling. Patient noted she had felt "crummy" for 
the past two weeks, and along with this she notes that her blood 
pressures at home have risen from on average a systolic of 150s 
to systolics of 180s or higher during the past two weeks. Today 
she was at work (works at ___), had her BP taken 
and found it to be very elevated so came in for evaluation. 
Patient currently on clonidine patch, labetalol, amlodipine, and 
valsartan.
Patient notes she has a doctor at ___ who 
has been directing most of her renal and hypertensive workup, 
and that the doctor planned at one point to do a CT 
abdomen/pelvis to look for an adrenal mass, but this has not 
been done yet. Previous Renal US consistent with CKD. Prior 
serologic workup for systemic renal disease negative. Patient's 
studies were only noteably for a reported elevated serum 
dopamine.
In the ED initial vitals were: 98.5 94 ___ RA
Physical exam: JVP about 10cm, 2+ pitting edema Abd benign. 
Lungs CTA.
Labs/studies notable for: Trop 0.09, ___: 16336, Cr2.0, 
proteinuria
EKG: NSR, poor R wave progression
CXR: Low lung volumes with patchy opacities in the lung bases 
which could reflect atelectasis, but aspiration or infection 
cannot be excluded. No pulmonary edema.
TTE revealed new depressed EF to 40-45%, RV/LV hypertrophy, 
moderate diastolic dysfunction and moderate pulmonary 
hypertension
Patient was given:
___ 22:35 IV Labetalol 10 mg
___ 00:19 IV Labetalol 10 mg
___ 03:48 IV Labetalol 10 mg
___ 06:03 PO/NG Labetalol 300 mg
___ 06:03 PO/NG amLODIPine 5 mg
___ 06:57 IV Furosemide 40 mg
___ 11:11 SC Insulin 15
___ 12:03 PO/NG Labetalol 300 mg
___ 12:03 PO/NG amLODIPine 5 mg
___ 14:49 PO/NG HydrALAZINE 25 mg
___ 18:10 PO/NG Labetalol 300 mg
___ 18:18 SC Insulin 8 Units
Vitals on transfer:98.0 88 160/100 19 99% RA
On the floor patient is comfortable, claims she wants to get to 
the bottom of this high blood pressure as she is worried about 
her long term health. Reports disease is "taking its toll."
REVIEW OF SYSTEMS:
Positive per HPI. Additionally reports some DOE, PND, orthopnea, 
ankle edema. Reports a cough 2 days ago in the setting of 
increased sensation of fluid.
Cardiac review of systems is notable for absence of chest pain, 
, palpitations, syncope, or presyncope.
On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, hemoptysis, black stools or red stools. Denies 
exertional buttock or calf pain. All of the other review of 
systems were negative.
 
Past Medical History:
PAST MEDICAL HISTORY:
1. CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Nephrotic range Proteinuria
2. CARDIAC HISTORY
- unknown
- EF 40-45%,
- NSR,
3. OTHER PAST MEDICAL HISTORY
ASTHMA
DEPRESSION
ANEMIA
FIBROID UTERUS status post hysterectomy in ___.
ALPHA THALLASSEMIA TRAIT
ANEMIA
NEPHROTIC SYNDROME
SEIZURE DISORDER
 
Social History:
___
Family History:
Father had DM, HTN, ESRD s/p temporary HD, renal transplant
Mother DM and HTN
Multiple maternal aunts HTN DM and renal disease
 
Physical Exam:
ADMISSION PHYSICAL
=================
VS: 156/117 94
GENERAL: Well developed, well nourished woman in NAD. Oriented 
x3. Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. JVP of 10 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Loud S4.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly. No CVA tenderness.
EXTREMITIES: Marked tense edema bilaterally in lower extremities 
2+ up to knee.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL
=================
VS: 98.6 ___ 18 98-100%RA
Weight: 92.9kg -> 92.9kg -> 92.5kg -> 92.1-> 90.6 -> 91.9kg -> 
89.4kg -> 88.9kg   
I/O: ___
GENERAL: Pleasant, NAD 
HEENT: Sclera anicteric. PERRL. EOMI. Conjunctiva were pink. No 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple. JVP 6-8cm at 90degrees, improving EJ distension.  
CARDIAC:  Regular rate and rhythm.  S1, S2.  No S4.  No murmurs. 
 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly. No CVA tenderness.  
EXTREMITIES: WWP. compression stockings, edema bilaterally in 
lower extremities 1+ up to knee.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS
=============
___ 09:07PM BLOOD WBC-6.5 RBC-5.39* Hgb-10.1* Hct-32.7* 
MCV-61* MCH-18.7* MCHC-30.9* RDW-19.3* RDWSD-37.9 Plt ___
___ 09:07PM BLOOD Neuts-68.2 ___ Monos-9.6 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-4.42 AbsLymp-1.29 AbsMono-0.62 
AbsEos-0.10 AbsBaso-0.03
___ 09:07PM BLOOD Plt ___
___ 09:07PM BLOOD Glucose-372* UreaN-29* Creat-1.9* Na-136 
K-4.4 Cl-98 HCO3-22 AnGap-20
___ 09:07PM BLOOD ___
___ 09:07PM BLOOD Calcium-8.1* Phos-5.1* Mg-2.1
___ 08:30PM URINE Color-Straw Appear-Hazy Sp ___
___ 08:30PM URINE Blood-SM  Nitrite-NEG Protein-600 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:30PM URINE RBC-2 WBC-2 Bacteri-FEW Yeast-NONE Epi-3
___ 08:30PM URINE Hours-RANDOM UreaN-352 Creat-63 Na-35 
TotProt-675 Prot/Cr-10.7* Albumin-408.2 Alb/Cre-6479.4*
___ 08:30PM URINE UCG-NEGATIVE Osmolal-333

PERTINENT LABS
=============
___ 03:30PM BLOOD CK-MB-10 cTropnT-0.08*
___ 07:46AM BLOOD cTropnT-0.09*
___ 09:07PM BLOOD cTropnT-0.09*
___ 09:07PM BLOOD ___
___ 08:30PM URINE Blood-SM  Nitrite-NEG Protein-600 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:30PM URINE Hours-RANDOM UreaN-352 Creat-63 Na-35 
TotProt-675 Prot/Cr-10.7* Albumin-408.2 Alb/Cre-6479.4*

MICRO
=====
NONE

STUDIES/IMAGING
==============
CXR ___
FINDINGS: 
Lung volumes are low.  This accentuates the size of the cardiac 
silhouette
which appears mildly enlarged.  Mediastinal and hilar contours 
are
unremarkable.  Crowding of bronchovascular structures is present 
without overt
pulmonary edema.  Patchy opacities within the lung bases may 
reflect
atelectasis, but infection or aspiration are not excluded.  No 
large pleural
effusion or pneumothorax is seen.  There are no acute osseous 
abnormalities.
IMPRESSION: 
Low lung volumes with patchy opacities in the lung bases which 
could reflect
atelectasis, but aspiration or infection cannot be excluded.  No 
pulmonary
edema.

TTE ___
The left atrium is moderately dilated. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with focal 
hypokinesis of the basal to mid inferoseptum. The remaining 
segments contract normally. Overall left ventricular systolic 
function is mildly depressed (LVEF= 40-45 %). Moderate diastolic 
dysfunction. Right ventricular chamber size and free wall motion 
are normal. The right ventricular free wall is hypertrophied. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is a small pericardial effusion. 
The effusion appears circumferential. There are no 
echocardiographic signs of tamponade. There is brief right 
atrial diastolic collapse. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction c/w possible CAD. Moderate 
diastolic dysfunction with elevated PCWP. Right ventricular 
hypertrophy with normal right ventricular cavity size and 
systolic function. At least moderate pulmonary hypertension. 
Mild mitral regurgitation. Small circumferential pericardial 
effusion with no signs of tamponade. 

DISCHARGE LABS
=============

___ 07:35AM BLOOD WBC-4.0 RBC-4.79 Hgb-9.0* Hct-29.4* 
MCV-61* MCH-18.8* MCHC-30.6* RDW-19.1* RDWSD-38.5 Plt ___
___ 01:05PM BLOOD Glucose-271* UreaN-30* Creat-1.9* Na-139 
K-4.0 Cl-100 HCO3-27 AnGap-16
___ 01:05PM BLOOD Calcium-8.5 Phos-6.1* Mg-2.1
 
Brief Hospital Course:
Patient is a ___ with CKDIII, nephrotic syndrome, DMII, and 
uncontrolled HTN who presented with hypertensive urgency, 
admitted for newly found HFrEF. 

# Acute Systolic/Diastolic Heart Failure: TTE on admission 
revealed depressed EF 40-45% associated with hypertrophy of 
left/right ventricles as well as moderate pulmonary 
hypertension. Most likely ___ to uncontrolled hypertension. 
___ elevated to 16,000s, troponinemia (trops peaked at .09) 
likely Type 2 NSTEMI, patient appeared volume overloaded on 
exam, severe ___ in setting of nephrotic syndrome. She received 
lasix 80mg IV boluses with good UOP. Given severe hypertension 
(>230 SBPs on admission), afterload reduction was uptitrated 
slowly so as to prevent acute, relative hypotension. Blood 
pressures had decreased to systolic 150-160s by time of 
discharge. Afterload reduction regimen at time of discharge: 
Clonidine Patch 0.3mg/24hr, Amlodipine 10 daily, Valsartan 160mg 
BID, Imdur 30 Daily, Hydralazine 10 TID. 

# Hypertensive Urgency: New heart failure as above, also CKD. 
Patient presented with SBPs >230. Regimen at time of discharge: 
Clonidine Patch 0.3mg/24hr, Amlodipine 10 daily, Valsartan 160mg 
BID, Imdur 30 Daily, Hydralazine 10 TID, carvedilol 25mg BID, 
Hydralazine 10 TID.

# Troponinemia: Elevated on presentation in the setting of stage 
III CKD, likely Type II NSTEMI. Trops peaked at .09.

# ___ 
# Nephrotic Syndrome: Cr on presentation elevated to 2.0 from 
recent baseline of 1.4-1.5, FeNa 0.8%, suggesting prerenal cause 
(e.g. cardiorenal syndrome from HTN-induced CHF). She likely has 
CKD in setting of hypertension and DM. Renal was consulted and 
helped to tailor anti-HTN regimen as above. They recommended 
outpatient renal biopsy.

TRANSITIONAL ISSUES
=================
MEDICATIONS CHANGED, STOPPED, STARTED: 
[] Amlodipine 10mg Daily CHANGED from 5mg daily 
[] Torsemide 100mg Daily, CHANGED from 10mg daily 
[] Valsartan 160mg BID, CHANGED from 320mg Daily 
[] Carvedilol 25 mg BID, CHANGED from Labetolol 300mg QID
[] Chlorthalidone 25mg Daily STARTED 
[] Hydralazine 10mg PO TID, STARTED for BP control 
[] Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY, 
STARTED
[] Spironolactone 25mg Daily, STARTED 
[] Labetolol 300mg QID STOPPED and replaced with Carvedilol 25 
mg 

- Discharge weight: 86.4 kg 
- Discharge Cr: 2.0 (uptrending from 1.8) 

ITEMS THAT REQUIRE FOLLOW-UP: 
[] Patient will need a kidney biopsy as an outpatient once her 
blood pressures are adequately controlled. She will be followed 
by Dr. ___ as an outpatient. 
[] Consider up-titration of the Hydralazine and Imdur for better 
blood pressure control as patient is able to tolerate. 
[] Patient will need electrolyte levels drawn 5 to 7 days after 
discharge. Would also suggest drawing CMP at next PCP 
___. 
[] Patient will likely require further titration of torsemide. 
She will follow with heart failure team. 
[] Patient will be recording her own weights and urinary output 
at home. She has refused ___ services. 

==============
- Code Status: Full
- Contact: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 320 mg PO DAILY 
2. Labetalol 300 mg PO QID 
3. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTHUR 
4. amLODIPine 5 mg PO DAILY 
5. Glargine 15 Units Breakfast
Glargine 10 Units Dinner
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
7. Torsemide 10 mg PO BID was taking TID at home 
8. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Carvedilol 25 mg PO BID 
RX *carvedilol 25 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  HydrALAZINE 10 mg PO TID 
RX *hydralazine 10 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*90 Tablet Refills:*0 
4.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
6.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
7.  Glargine 15 Units Breakfast
Glargine 10 Units Dinner 
8.  Torsemide 100 mg PO DAILY 
RX *torsemide 100 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
9.  Valsartan 160 mg PO BID 
RX *valsartan 160 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
10.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
11.  Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTHUR  
12.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
13.Outpatient Lab Work
I50.9 
Please obtain complete metabolic panel ___
Fax results to: Dr. ___
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
==============
Hypertension
Acute on chronic systolic/diastolic congestive heart failure 
exacerbation

Secondary Diagnoses
================
Nephrotic Syndrome
Type II Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because your blood pressure 
was severely elevated, causing injury to both your kidneys and 
heart.  You had an ultrasound of your heart which showed that 
the pumping function is decreased (congestive heart failure).  
This is most likely due to longstanding elevated blood 
pressures.  

You received intravenous diuretics to help remove excess fluid 
via urination.  Your blood pressure medications were changed so 
as to best keep it at a normal level. 

The kidney doctors came to ___ you and suggested that you have a 
kidney biopsy as an outpatient.

It is important that you take your medicines as prescribed and 
follow-up with your doctors as listed below.

It was a pleasure taking care of you!

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___